### PR TITLE
Add Erdős Problem 915 (Bollobás–Erdős conjecture on m disjoint paths), link the formal disproof

### LINKED ISSUE #1017: Erdős Problem 915
### What is the conjecture

https://www.erdosproblems.com/915

  Let $G$ be a graph with $1+nm$ vertices and $1+n\binom{m}{2}$ edges. Must $G$ contain two points which are connected by $m$ disjoint paths?

Status:  falsifiable

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #1017.

### What changed
Adds `FormalConjectures/ErdosProblems/915.lean`:
- `erdos_915` (`research solved`, `answer(False)`): the internally vertex-disjoint reading of the Bollobás–Erdős conjecture — every graph with `1 + n(m-1)` vertices and `1 + n·C(m,2)` edges (`m ≥ 2`, `n ≥ 1`) has two vertices joined by `m` paths that are pairwise `InternallyDisjoint` (the house predicate from `FormalConjecturesForMathlib`). Disproved by Leonard (`m = 5`) and Mader (`m ≥ 6`). Linked to plby/lean-proofs `Erdos915.not_erdos_915` (Codex and GPT-5.6 Sol; a 17-vertex counterexample for `m = 5`, `n = 4`).
- `erdos_915.variants.edge_disjoint` (`research solved`, `answer(True)`): the edge-disjoint reading, confirmed by Mader [Ma73].

The vertex count follows the current problem page (`1 + n(m-1)`, matching the extremal construction of `n` copies of `K_m` sharing a vertex); the issue text has the older `1 + nm`.

### Why
Issue #1017 is up for grabs (the earlier PR #5903 was closed by its author). The plby proof is single-file, Mathlib-only and axiom-clean.

### How checked
- Rebuilt plby's file against this repo's Mathlib: `#print axioms Erdos915.not_erdos_915` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statement on top of a renamed copy, same axioms. plby's conclusion is an injective family `Fin m → G.Path u v` whose sets of internal vertices are pairwise disjoint; the bridge turns a `Finset` of `m` pairwise `InternallyDisjoint` paths into such a family (an internal vertex of a path lies in `support.tail.dropLast`):

<details>
<summary>Bridge</summary>

```lean
open SimpleGraph

namespace Bridge915

variable {V : Type*} {G : SimpleGraph V} {u v : V}

/-- An internal vertex of a walk from `u` to `v` lies in `support.tail.dropLast`. -/
lemma mem_tail_dropLast_of_internal (p : G.Walk u v) {x : V} (hx : x ∈ p.support) (hxu : x ≠ u)
    (hxv : x ≠ v) : x ∈ p.support.tail.dropLast := by
  have htail : x ∈ p.support.tail := by
    rw [← p.cons_tail_support] at hx
    exact List.mem_of_ne_of_mem hxu hx
  have hne : p.support.tail ≠ [] := List.ne_nil_of_mem htail
  have hlast : p.support.tail.getLast hne = v := by
    rw [List.getLast_tail]
    exact p.getLast_support
  rw [← List.dropLast_append_getLast hne, List.mem_append, List.mem_singleton] at htail
  rcases htail with h | h
  · exact h
  · exact absurd (h.trans hlast) hxv

lemma internal_of_fc {m : ℕ} (P : Finset (G.Walk u v)) (hcard : P.card = m)
    (hpath : ∀ p ∈ P, p.IsPath) (hdisj : (P : Set (G.Walk u v)).Pairwise InternallyDisjoint) :
    ∃ paths : Fin m → G.Path u v, Function.Injective paths ∧
      Set.PairwiseDisjoint Set.univ (fun i ↦ Erdos915Plby.internalVertices (paths i)) := by
  classical
  let e' : P ≃ Fin m := hcard ▸ P.equivFin
  refine ⟨fun i => ⟨(e'.symm i).1, hpath _ (e'.symm i).2⟩, ?_, ?_⟩
  · intro i j h
    have := congrArg Subtype.val h
    simp only at this
    exact e'.symm.injective (Subtype.ext this)
  · intro i _ j _ hij
    have hne : (e'.symm i).1 ≠ (e'.symm j).1 := fun h =>
      hij (e'.symm.injective (Subtype.ext h))
    have hd := hdisj (e'.symm i).2 (e'.symm j).2 hne
    refine Set.disjoint_left.2 fun x hxi hxj => ?_
    obtain ⟨hxi1, hxi2, hxi3⟩ := hxi
    obtain ⟨hxj1, hxj2, hxj3⟩ := hxj
    exact hd (mem_tail_dropLast_of_internal _ hxi1 hxi2 hxi3)
      (mem_tail_dropLast_of_internal _ hxj1 hxj2 hxj3)

theorem erdos_915_bridge : type_of% Erdos915.erdos_915 := by
  show False ↔ _
  simp only [false_iff]
  intro h
  apply Erdos915Plby.not_erdos_915
  intro m n hm hn V _ G hV hE
  obtain ⟨u, v, huv, P, hcard, hpath, hdisj⟩ := h m n hm hn V G hV hE
  obtain ⟨paths, hinj, hd⟩ := internal_of_fc P hcard hpath hdisj
  exact ⟨u, v, huv, paths, hinj, hd⟩

end Bridge915
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«915»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/915.lean [hunk 1]
```diff
@@ -0,0 +1,87 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/915.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
